US05587392
Synthesis of 5-chloro-2-nitro-N-trifluoroacetylaniline
5-Chloro-2-nitroaniline (25 g) was dissolved in methylene chloride (250 ml), followed by addition of pyridine (11.7 g). A solution of trifluoroacetic anhydride (20 ml) in methylene chloride (50 ml) was added dropwise to the resulting mixture under ice cooling under stirring for 2 hours. Subsequently, water was added to the reaction mixture solution to separate the methylene chloride layer, which was then dried over anhydrous sodium sulfate. By removal of the solvent under reduced pressure, the title compound was given (38 g; 98%).

reactant | 5-Chloro-2-nitroaniline | 25 g | ClC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | pyridine | 11.7 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 20 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 5-chloro-2-nitro-N-trifluoroacetylaniline | ClC=1C=CC(=C(NC(C(F)(F)F)=O)C1)[N+](=O)[O-] | C8H4ClF3N2O3
